US07375099B2
b) N-Benzyl-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide
The title compound, MS: m/e=428.3 (M+H+), was prepared in analogy to example 16 from 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and N-benzyl-2-methyl-malonamic acid.

reactant | 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | N-benzyl-2-methyl-malonamic acid | C(C1=CC=CC=C1)NC(C(C(=O)O)C)=O | C11H13NO3
product | N-Benzyl-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | C(C1=CC=CC=C1)NC(C(C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C)=O | C26H25N3O3
